US07244726B2
4-Methanesulfonyl-6-methyl-3,4-dihydro-2H-benzo[1,4]oxazine (D1)
6-Methyl-3,4-dihydro-2H-benzo[1,4]oxazine (1.49 g, 10 mmol) was dissolved in dichloromethane (50 mL) and treated with triethylamine (1.14 g, 11 mmol) followed by the dropwise addition of methanesulfonyl chloride (1.26 g, 11 mmol). The mixture was stirred at ambient temperature for 18 h then evaporated to dryness under reduced pressure. The residue was partitioned between ethyl acetate and saturated aqueous NaHCO3. The phases were separated and the organic phase washed with water, saturated brine, dried (MgSO4) and evaporated to dryness under reduced pressure to give the title compound (2.09 g, 93%) as a brown solid.

reactant | 6-Methyl-3,4-dihydro-2H-benzo[1,4]oxazine | 10 mmol, 1.49 g | CC=1C=CC2=C(NCCO2)C1 | C9H11NO
reactant | triethylamine | 11 mmol, 1.14 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 11 mmol, 1.26 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-Methanesulfonyl-6-methyl-3,4-dihydro-2H-benzo[1,4]oxazine | 2.09 g, 93% | CS(=O)(=O)N1CCOC2=C1C=C(C=C2)C | C10H13NO3S
